US05302720
A hot solution of potassium hydroxide (25.2 g) in water (70 ml) was added to N-(4-benzyloxyphenyl)thiourea (11.34 g) suspended in boiling water (80 ml). A hot solution of lead acetate trihydrate (71.5 g) in water (80 ml) was added and the mixture heated under reflux for an hour and filtered whilst hot. The filtrate was cooled, acidified to pH 7 with acetic acid and extracted with dichloromethane to give 4-benzyloxyphenylcyanamide as a white solid which was purified by flash chromatography (as described by Still et al in J Org Chem, 1978, 43, 2923-2925) over silica using hexane and chloroform as eluant to give 4-benzyloxyphenylcyanamide (m.p. 105° C.).

reactant | potassium hydroxide | 25.2 g | [OH-].[K+]
reactant | N-(4-benzyloxyphenyl)thiourea | 11.34 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=S)N | C14H14N2OS
reactant | lead acetate trihydrate | 71.5 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | water | 70 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | water | 80 ml | O | H2O
product | 4-benzyloxyphenylcyanamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC#N | C14H12N2O
